US07566735B2
N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)cyclopentanesulfonamide
The title compound was prepared from ({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)amine and cyclopentanesulphonyl chloride using a similar procedure to that described for Example 88.

reactant | ({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)amine | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CN)(F)F | C15H16F3N3
reactant | cyclopentanesulphonyl chloride | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
product | N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)cyclopentanesulfonamide | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CNS(=O)(=O)C1CCCC1)(F)F | C20H24F3N3O2S
